US07553964B2
To a solution of diethyl isocyanomethylphosphonate (0.86 mL, 5.3 mmol) in anhydrous ether (45 mL) at −78° C. under nitrogen was added n-butyl lithium (2.13 mL, 2.5 M in hexane) and the resulting mixture was stirred at −78° C. for 1 hr. Then, 3-(4-bromo-phenyl)-cyclobutanone (1 g, 4.4 mmol) in anhydrous ether (15 mL) was added dropwise over 30 minutes. The reaction mixture was allowed to warm to ambient temperature and stirred 16 hours. Concentrated hydrochloric acid (9.5 mL) was added dropwise and the reaction mixture was stirred at room temperature for 5 hrs. The mixture was partitioned between ethyl acetate and water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), filtered, and concentrated. The residue was chromatographed on silica gel eluting with 2-3% ethyl acetate in hexanes to provide 3-(4-bromo-phenyl)-trans-cyclobutanecarbaldehyde (281 mg, 27%) as the faster eluting isomer (A1) and 3-(4-bromo-phenyl)-cis-cyclobutanecarbaldehyde (508 mg, 48%) as the slower eluting isomer (A2). A1: 1H NMR (300 MHz, CDCl3) δ 2.37 (m, 2 H), 2.72 (m, 2 H), 3.16 (m, 1 H), 3.53 (p, J=6 Hz, 1 H), 7.09 (d, J=9 Hz, 2 H), 7.44 (d, J=9Hz, 2 H), 9.95 (s, 1 H),; (DCl/NH3) m/z 239 (M+H)+; A2: 1 H NMR (300 MHz, CDCl3) δ 2.35 (m, 2 H), 2.55 (m, 2 H), 3.21 (m, 1 H), 3.52 (p, J=6 Hz, 1 H), 7.07 (d, J=9 Hz, 2 H), 7.42 (d, J=9 Hz, 2 H), 9.73 (s, 1 H); (DCl/NH3) m/z 239 (M+H)+.

reactant | diethyl isocyanomethylphosphonate | 5.3 mmol, 0.86 mL | [N+](#[C-])CP(OCC)(OCC)=O | C6H12NO3P
reactant | n-butyl lithium | 2.5 M, 2.13 mL | C(CCC)[Li]
reactant | 3-(4-bromo-phenyl)-cyclobutanone | 4.4 mmol, 1 g | BrC1=CC=C(C=C1)C1CC(C1)=O | C10H9BrO
reactant | hydrochloric acid | 9.5 mL | Cl | ClH
solvent | ether | 45 mL | CCOCC | C4H10O
solvent | ether | 15 mL | CCOCC | C4H10O
product | 3-(4-bromo-phenyl)-trans-cyclobutanecarbaldehyde | 281 mg, 27% | BrC1=CC=C(C=C1)[C@@H]1C[C@H](C1)C=O | C11H11BrO
